US08012966B2
2-(5-Methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-morpholin-4-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 13 with 3-methyl-5-(2-morpholin-4-yl-ethyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-methoxy-1,3-dihydro-indol-2-one (prepared according to U.S. Pat. No. 6,114,371) as starting materials to give 2-(5-methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-morpholin-4-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (30 mg, 33.3%) as a yellow solid.

reactant | 3-methyl-5-(2-morpholin-4-yl-ethyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCOCC2)=O)C=O | C15H21N3O3
reactant | 5-methoxy-1,3-dihydro-indol-2-one | COC=1C=C2CC(NC2=CC1)=O | C9H9NO2
product | 2-(5-methoxy-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-morpholin-4-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 30 mg, 33.3% | COC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCOCC1)=O)C | C24H28N4O4
